US05206363
A solution of 26 g of (-)-camphanic acid chloride in 100 ml of methylene chloride is added dropwise at 0°, with stirring, to a suspension of 48 g of 5-[1- (3,4-methylenedioxybenzoyl)-1,2,3, 4-tetrahydroquinol-6- yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in 800 ml of methylene chloride to which 20 ml of triethylamine have been added, and the reaction mixture is stirred for 4 hours. It is then washed with dilute hydrochloric acid and subsequently with bicarbonate solution. The organic phase is separated off and worked up in conventional manner to give 3-[(-)-camphanoyl]-5-[1-(3,4-methylenedioxybenzoyl)-1,2,3, 4- tetrahydroquinol-6-yl]-6-methyl-3,6-dihydro-2H-1,3,4- thiadiazin-2-one as a mixture of diastereoisomers, m.p. 216°-217° .

reactant | (-)-camphanic acid chloride | 26 g | C12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
reactant | 5-[1- (3,4-methylenedioxybenzoyl)-1,2,3, 4-tetrahydroquinol-6- yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 48 g | C1OC=2C=C(C(=O)N3CCCC4=CC(=CC=C34)C3=NNC(SC3C)=O)C=CC2O1 | C21H19N3O4S
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 3-[(-)-camphanoyl]-5-[1-(3,4-methylenedioxybenzoyl)-1,2,3, 4- tetrahydroquinol-6-yl]-6-methyl-3,6-dihydro-2H-1,3,4- thiadiazin-2-one | C12(C(CC(CC1)C2(C)C)C(=O)N2C(SC(C(=N2)C=2C=C1CCCN(C1=CC2)C(C2=CC1=C(C=C2)OCO1)=O)C)=O)C | C32H35N3O5S
